US04677129
(a) 1-(4-aminophenyl)-3-methyl-3-azabicyclo[3.1.1]heptane-2,4-dione
In a manner analogous to that described in Example 1a, 6.0 g of 3-methyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]-heptane-2,4-dione are dissolved in 120 ml of 2-methoxyethanol, hydrogenated in the presence of 0.6 g of 5% palladium-on-carbon and worked up. Melting point 197°-198° (from ethyl acetate).

reactant | 3-methyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]-heptane-2,4-dione | 6.0 g | CN1C(C2(CC(C1=O)C2)C2=CC=C(C=C2)[N+](=O)[O-])=O | C13H12N2O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 2-methoxyethanol | 120 ml | COCCO | C3H8O2
catalyst | palladium-on-carbon | 0.6 g | [Pd] | Pd
product | 1-(4-aminophenyl)-3-methyl-3-azabicyclo[3.1.1]heptane-2,4-dione | NC1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)C)=O | C13H14N2O2
